US08614242B2
At ambient temperature, a solution of 267 mg (1.25 mmol) of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride in 1 ml of tetrahydrofurane is added dropwise to a solution of 200 mg (1.14 mmol) of 2-(3-methylbenzyl)pyrrolidine and 127 mg (1.25 mmol) of triethylamine in 5 ml of tetra-hydrofurane. The reaction mixture is stirred for 1 hour at 70° C. The solvent is removed under vacuum and 100 ml of water are then added to the residue. The watery layer is extracted twice with ethyl acetate (2×150 ml) and the combined organic layers are successively washed by a 1 N solution of HCl, a saturated solution of potassium carbonate and filtered over a Chemelut™ cardridge to yield after concentration 350 mg of a beige oil. Column chromatography on silica gel (gradient heptane/ethyl acetate) yields 300 mg (71% yield) of [3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazol-4-yl][2-(3-methylbenzyl)pyrrolidin-1-yl]-methanone as a colourless oil (M+H=352).

reactant | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.25 mmol, 267 mg | FC(C1=NN(C(=C1C(=O)Cl)F)C)F | C6H4ClF3N2O
reactant | 2-(3-methylbenzyl)pyrrolidine | 1.14 mmol, 200 mg | CC=1C=C(CC2NCCC2)C=CC1 | C12H17N
reactant | triethylamine | 1.25 mmol, 127 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | tetra-hydrofurane | 5 ml | O1CCCC1 | C4H8O
product | [3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazol-4-yl][2-(3-methylbenzyl)pyrrolidin-1-yl]-methanone | 300 mg, 71% yield | FC(C1=NN(C(=C1C(=O)N1C(CCC1)CC1=CC(=CC=C1)C)F)C)F | C18H20F3N3O
